### PR TITLE
[set] Uniformize lemmas on `&` and `|`

### PR DESCRIPTION
**Pull request by proux01**

### CODE REVIEW

File: theories/classical_sets.v [hunk 1]
```diff
@@ -374,77 +369,110 @@ Proof. by move=> A; rewrite funeqE => t; rewrite /setC; exact: notLR. Qed.
...
 Lemma setIIl A B C : A `&` B `&` C = (A `&` C) `&` (B `&` C).
 Proof. by rewrite setIA !(setIAC _ C) -(setIA _ C) setIid. Qed.
 
 Lemma setIIr A B C : A `&` (B `&` C) = (A `&` B) `&` (A `&` C).
 Proof. by rewrite !(setIC A) setIIl. Qed.
 
+Lemma setUC : commutative (@setU T).
+Proof. move=> p q; rewrite /setU/mkset predeqE => a; tauto. Qed.
+
+Lemma setUS C : {homo setU C : A B / A `<=` B }.
```
Comment (affeldt-aist) [inline theories/classical_sets.v:426]: If we use the `homo` notation, how can the user see the statement `A <= B -> C | A <= C | B`?
I am not sure it can be `Search`ed and `About` expands `setUS` to the point it is unreadable,
at least in my setting. How can I mitigate this problem? By the way `finset.v` does not use the `homo` notation but this is maybe for a different reason (like the notation was not available at the time it was first written).

Comment (proux01) [reply theories/classical_sets.v]: I agree it's an issue. The best fix would probably be improving `Search`. I have no strong opinion, so let's revert this.
I keep the order of argument though, which is still an improvement (`C` shouldn't be implicit but I don't know how to fix that, short of putting `Arguments` commands everywhere).

File: theories/classical_sets.v [hunk 2]
```diff
@@ -570,10 +598,7 @@ Proof. by rewrite -setD_eq0 setDE -set0P => /eqP. Qed.
 Lemma setU_eq0 A B : (A `|` B = set0) = ((A = set0) /\ (B = set0)).
 Proof. by rewrite -!subset0 subUset. Qed.
 
-Lemma setUCl A : ~` A `|` A = setT. Proof. by rewrite setUC setUCr. Qed.
-
 Lemma setCS A B : (~` A `<=` ~` B) = (B `<=` A).
```
Comment (CohenCyril) [inline theories/classical_sets.v:601]: Please restore this line
```suggestion
Lemma setCS A B : (~` A `<=` ~` B) = (B `<=` A).
Proof.
```

Comment (proux01) [reply theories/classical_sets.v:601]: Indeed, sorry.

**Review by CohenCyril — APPROVED** [review]
LGTM
